US05124459
Triethylamine (4.67 g) is added to a suspension of 3-formyl-2-(3-pyridyl)-4-thiazolidinecarboxylic acid (10 g) in dichloromethane (15 cc) at a temperature close to 20° C. A clear light yellow solution is obtained. This solution is added dropwise in the course of 1 hour at 40° C. to a mixture of tosyl chloride (8.8 g) in dichloromethane (17 cc). The reaction mixture becomes homogeneous and orange-red in colour. 2-Chloroacrylonitrile (4.10 g) is then added quickly, followed, while the reaction medium is maintained at reflux, by triethylamine (9.37 g). The reaction mixture is maintained refluxing for a further 1 hour and 25 minutes. After cooling to room temperature, the reaction medium is hydrolysed with water (12 cc). The organic phase is decanted and the aqueous phase extracted with dichloromethane. The organic extracts are combined and dried overnight over sodium sulphate. After filtering, the solvent is evaporated under reduced pressure (20 mm Hg; 2.7 Pa) at 20° C. A crude product (11.11 g) is obtained, and is purified by chromatography on a column (diameter 4.5 cm) containing silica (100 g) (0.063-0.2 mm), eluting with a mixture of ethyl acetate and dichloromethane. 7-Cyano-3-(3-pyridyl)-1H,3H-pyrrolo[1,2-c]thiazole (8.36g) is thereby obtained in the form of light beige-coloured crystals, m.p. 110° C. (yield 88.4% relative to the acid used).

reactant | Triethylamine | 4.67 g | C(C)N(CC)CC | C6H15N
reactant | 3-formyl-2-(3-pyridyl)-4-thiazolidinecarboxylic acid | 10 g | C(=O)N1C(SCC1C(=O)O)C=1C=NC=CC1 | C10H10N2O3S
reactant | tosyl chloride | 8.8 g | S(=O)(=O)(C1=CC=C(C)C=C1)Cl | C7H7ClO2S
reactant | 2-Chloroacrylonitrile | 4.10 g | ClC(C#N)=C | C3H2ClN
reactant | triethylamine | 9.37 g | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 15 cc | ClCCl | CH2Cl2
solvent | dichloromethane | 17 cc | ClCCl | CH2Cl2
solvent | water | 12 cc | O | H2O
product | 7-Cyano-3-(3-pyridyl)-1H,3H-pyrrolo[1,2-c]thiazole | 8.36g, yield 88.4% | C(#N)C=1C=CN2C(SCC21)C=2C=NC=CC2 | C12H9N3S
